datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC[N:21]([N+](=O)[O-])[H:20].O=Cc1cccnc1C(=O)[O-:10]>>CCCC[N-:21][N+](=O)[O-].O=Cc1cccnc1C(=O)[O:10][H:20] 10=20;20,21=21",
"C[N+:21](C)(CCCCCCNC(=O)/C=N/[O-])[H:20].O=C(N[O-:10])c1ccccc1>>C[N:21](C)CCCCCCNC(=O)/C=N/[O-].O=C(N[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CC(CCCc1ccc(O)cc1)[NH2:10].CC(P)C(=O)[O:21][H:20]>>CC(CCCc1ccc(O)cc1)[NH2+:10][H:20].CC(P)C(=O)[O-:21] 10=20;20,21=21",
"CCOP(=O)(C[N:10]1CCOCC1)OCC.O=C(C1CSC[NH2+]1)[O:21][H:20]>>CCOP(=O)(C[N+:10]1([H:20])CCOCC1)OCC.O=C(C1CSC[NH2+]1)[O-:21] 10=20;20,21=21",
"Cc1nnc(C)n1[O-:10].Cn1ncc2c(Nc3ccccc3)nc[n+:21]([H:20])c21>>Cc1nnc(C)n1[O:10][H:20].Cn1ncc2c(Nc3ccccc3)nc[n:21]c21 10=20;20,21=21",
"CCC(C)[NH:10]C(C)C.Clc1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>CCC(C)[NH+:10](C(C)C)[H:20].Clc1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CC[NH:10]Cc1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC[NH+:10](Cc1ccccc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[N:10](C)CC(CSC#N)SC#N.N[C@H]1C[C@@H]2CCCC[C@H]2C[C@H]1[NH2+:21][H:20]>>C[N+:10](C)(CC(CSC#N)SC#N)[H:20].N[C@H]1C[C@@H]2CCCC[C@H]2C[C@H]1[NH2:21] 10=20;20,21=21",
"CCc1ccc(C(=O)/C=C/C(=O)[O:21][H:20])cc1.c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH:10]2)c1>>CCc1ccc(C(=O)/C=C/C(=O)[O-:21])cc1.c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CC(=O)[C@H]1CC=CC[C@@H]1C(=O)[O:21][H:20].[NH3+]c1ccc(-c2c[n:10]c(-c3ccccc3)o2)cc1>>CC(=O)[C@H]1CC=CC[C@@H]1C(=O)[O-:21].[NH3+]c1ccc(-c2c[n+:10]([H:20])c(-c3ccccc3)o2)cc1 10=20;20,21=21",
"CC/C(N=O)=N/[O:21][H:20].O=[N+]([O-])c1cc(O)ccc1[O-:10]>>CC/C(N=O)=N/[O-:21].O=[N+]([O-])c1cc(O)ccc1[O:10][H:20] 10=20;20,21=21",
"[H:20][NH+:21]1CCOCC1.C[N+]1=CC=C(C=C1)[CH-:10]S(=O)(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)S(=O)(=O)C2=CC=CC=C2.C1COCC[NH:21]1 10=20;20,21=21",
"Cc1cc(C)[n:10]c(N)n1.NC(=O)CC[C@@H](C(=O)N[C@@H](CCC(=O)O)C(=O)O)[NH:21][H:20]>>Cc1cc(C)[n+:10]([H:20])c(N)n1.NC(=O)CC[C@@H](C(=O)N[C@@H](CCC(=O)O)C(=O)O)[NH-:21] 10=20;20,21=21",
"CC(C)[NH2+]CC[NH+:21](C(C)C)[H:20].Cc1cc([N-:10]S(=O)(=O)c2ccc(N)cc2)nc(C)n1>>CC(C)[NH2+]CC[NH:21]C(C)C.Cc1cc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])nc(C)n1 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1c(CN2CCNCC[NH2+]CC2)n[nH]c1CN1CCNCC[NH:10]CC1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1c(CN2CCNCC[NH2+]CC2)n[nH]c1CN1CCNCC[NH+:10]([H:20])CC1 10=20;20,21=21",
"CCOCCn1c(CN2CC[N:10](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21.O=C(/C=C/c1cccs1)[O:21][H:20]>>CCOCCn1c(CN2CC[N+:10](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21.O=C(/C=C/c1cccs1)[O-:21] 10=20;20,21=21",
"CN(C)Cc1cc(C(C)(C)C)ccc1[O:21][H:20].c1cnc2c(c1)cc[n-:10]2>>CN(C)Cc1cc(C(C)(C)C)ccc1[O-:21].c1cnc2c(c1)cc[n:10]2[H:20] 10=20;20,21=21",
"Cc1c(O)cccc1C(=O)[O-:10].Oc1cccc(C2SCC[NH+:21]2[H:20])c1>>Cc1c(O)cccc1C(=O)[O:10][H:20].Oc1cccc(C2SCC[NH:21]2)c1 10=20;20,21=21",
"[H:20][NH2+:21]CC(=O)OCC.C1=CC=C(C=C1)C(=O)[CH-:10][P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10](C(=O)C1=CC=CC=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.CCOC(=O)C[NH2:21] 10=20;20,21=21",
"[H:20][NH+:21]1CCCCC1.[CH-:10]1C2=C(C=CC=C2)OC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)OC1=O.C1CC[NH:21]CC1 10=20;20,21=21",
"CC(C)[NH2+]CC[NH2:10].Cc1nn(-c2ccccc2)c([O:21][H:20])c1Cc1ccccc1>>CC(C)[NH2+]CC[NH2+:10][H:20].Cc1nn(-c2ccccc2)c([O-:21])c1Cc1ccccc1 10=20;20,21=21",
"CCCCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].O=C(CCCBr)OCCCC(=O)[O-:10]>>CCCCCCCCCC[N:21](CC(C)O)CC(C)O.O=C(CCCBr)OCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)(C(=O)[O-])c1c[nH]c(CO)[n+:21]1[H:20].C[Se](C)=[O:10]>>CC(C)(C(=O)[O-])c1c[nH]c(CO)[n:21]1.C[Se](C)=[O+:10][H:20] 10=20;20,21=21",
"C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2:10])[C@@H](C)[C@H]1N.Cc1cc(S(=O)(=O)N(CCO)CCO)cc(C)c1[O:21][H:20]>>C[C@H]1[C@@H](N)[C@@H](C)[C@@H]([NH2+:10][H:20])[C@@H](C)[C@H]1N.Cc1cc(S(=O)(=O)N(CCO)CCO)cc(C)c1[O-:21] 10=20;20,21=21",
"CCN[NH:10]CC.OB(O)c1cccc([NH2+:21][H:20])c1>>CCN[NH+:10](CC)[H:20].OB(O)c1cccc([NH2:21])c1 10=20;20,21=21",
"CN(C)c1ccc[n+:21]([H:20])c1.O=Cc1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1>>CN(C)c1ccc[n:21]c1.O=Cc1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CCC(O)C[N:10](CCO)C(C)(C)C.Cc1cc([O-])[nH+]c[n+:21]1[H:20]>>CCC(O)C[N+:10](CCO)(C(C)(C)C)[H:20].Cc1cc([O-])[nH+]c[n:21]1 10=20;20,21=21",
"Cc1cccc(OC(CBr)(c2ccccc2)[O:21][H:20])c1.[O-]c1cc2ccccc2n[n:10]1>>Cc1cccc(OC(CBr)(c2ccccc2)[O-:21])c1.[O-]c1cc2ccccc2n[n+:10]1[H:20] 10=20;20,21=21",
"CSC1=NC(C)=CC(=[O:10])N1C.Cc1ccccc1[N:21](N=C(C#N)C#N)[H:20]>>CSC1=NC(C)=CC(=[O+:10][H:20])N1C.Cc1ccccc1[N-:21]N=C(C#N)C#N 10=20;20,21=21",
"CC1=CC[N+:21]2([H:20])CC[C@@H](O)[C@@H]12.[O-]c1nc([O-:10])nn1-c1ccccc1>>CC1=CC[N:21]2CC[C@@H](O)[C@@H]12.[O-]c1nc([O:10][H:20])nn1-c1ccccc1 10=20;20,21=21",
"COc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(OC)cc3)o2)cc1.O=C(c1cc([N+](=O)[O-])ccc1F)[O-:10]>>COc1ccc(-c2c[n:21]c(-c3ccc(OC)cc3)o2)cc1.O=C(c1cc([N+](=O)[O-])ccc1F)[O:10][H:20] 10=20;20,21=21",
"CCC[N+:21](N)(CCC)[H:20].Cc1cccc(C)c1[N-:10]C(=S)c1ccccc1>>CCC[N:21](N)CCC.Cc1cccc(C)c1[N:10](C(=S)c1ccccc1)[H:20] 10=20;20,21=21",
